US05041443
Preparation of 2-chloro-4-(4-fluorophenyl)-6,7-dihydro-5H-cyclopentapyrimidine:
To 4-(4-fluorophenyl)-1,5,6,7-tetrahydro-2H-cyclopentapyrimidin-2-one (14.3 g) is added phosphorus oxychloride (60 ml), and the mixture is refluxed for 5 hours. After cooling, the reaction mixture is diluted with chloroform (100 ml), and the mixture is added dropwise to ice-water over a period of 20 minutes. After the mixture is stirred for 30 minutes, the organic layer is separated, washed with water, dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The residue is dissolved in toluene and subjected to silica gel column chromatography. The fractions eluted with toluene are collected and the product therefrom is recrystallized from ethanol to give the desired compound (13.6 g), m.p. 106°-107° C.

reactant | 4-(4-fluorophenyl)-1,5,6,7-tetrahydro-2H-cyclopentapyrimidin-2-one | 14.3 g | FC1=CC=C(C=C1)C1=NC(NC2=C1CCC2)=O | C13H11FN2O
reactant | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-4-(4-fluorophenyl)-6,7-dihydro-5H-cyclopentapyrimidine | 13.6 g | ClC1=NC2=C(C(=N1)C1=CC=C(C=C1)F)CCC2 | C13H10ClFN2
